US09079866B2
1-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}-4-(trifluoromethyl)piperidin-4-ol
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and 1-((2-bromophenyl)sulfonyl)-4-(trifluoromethyl)piperidin-4-ol. MS (ESI): mass calcd. for C22H20F4N4O3S, 496.12; m/z found, 497.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.38 (s, 1H), 8.23 (d, J=1.1, 1H), 8.15-8.11 (m, 1H), 7.94 (m, 1H), 7.75-7.67 (m, 1H), 7.64-7.58 (m, 1H), 7.45-7.41 (m, 1H), 7.35-7.27 (m, 2H), 3.29-3.22 (m, 2H), 2.79-2.64 (m, 2H), 1.65-1.48 (m, 4H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 1-((2-bromophenyl)sulfonyl)-4-(trifluoromethyl)piperidin-4-ol | BrC1=C(C=CC=C1)S(=O)(=O)N1CCC(CC1)(O)C(F)(F)F | C12H13BrF3NO3S
product | 1-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}-4-(trifluoromethyl)piperidin-4-ol | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)N1CCC(CC1)(O)C(F)(F)F)F | C22H20F4N4O3S
